US07253286B2
N-{[4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxyl-2-fluorophenyl]}-N′-(4-fluorophenyl)-N-methylurea
6-Carbamoyl-4-chloro-7-methoxyquinoline (41 mg, 0.1744 mmol) and N-(2-fluoro-4-hydroxyphenyl)-N′-(4-fluorophenyl)-N-methylurea (57 mg, 0.2048 mmol) were dissolved in dimethylsulfoxide (1.0 ml), and then sodium hydride (8.4 mg, 0.2093 mmol) was added and the mixture was heated and stirred at 85° C. for 30 minutes. After cooling the reaction solution to room temperature, water was added and the precipitated crystals were filtered out. The crystals were then suspended in acetone: diethyl ether=1:2 and refiltered out, washed with diethyl ether and dried by aspiration to obtain the title compound (46 mg, 0.0961 mmol, 55.13%) as yellow crystals.

reactant | 6-Carbamoyl-4-chloro-7-methoxyquinoline | 0.1744 mmol, 41 mg | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)Cl | C11H9ClN2O2
reactant | N-(2-fluoro-4-hydroxyphenyl)-N′-(4-fluorophenyl)-N-methylurea | 0.2048 mmol, 57 mg | FC1=C(C=CC(=C1)O)N(C(=O)NC1=CC=C(C=C1)F)C | C14H12F2N2O2
reactant | sodium hydride | 0.2093 mmol, 8.4 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 1.0 ml | CS(=O)C | C2H6OS
product | N-{[4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxyl-2-fluorophenyl]}-N′-(4-fluorophenyl)-N-methylurea | 0.0961 mmol, 46 mg, 55.13% | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)N(C(=O)NC1=CC=C(C=C1)F)C)F | C25H20F2N4O4
